US04411839
To 7 ml of tetralin is added 1.5 g of α-cyano-β-(2,4,6-trichlorophenylhydrazino)-N-ethoxycarbonylacrylamide, and this mixture is heated to 180°-200° under nitrogen for 30 minutes. After cooling, the resulting solid is filtered, washed with pentane, slurried with acetone/hexane and again filtered to give 1-(2,4,6-trichloroanilino)-5-cyano-2,4-pyrimidinedione, m.p.>320°.

reactant | tetralin | 7 ml | C1CCCC2=CC=CC=C12 | C10H12
reactant | α-cyano-β-(2,4,6-trichlorophenylhydrazino)-N-ethoxycarbonylacrylamide | 1.5 g | C(#N)C(C(=O)NC(=O)OCC)=CNNC1=C(C=C(C=C1Cl)Cl)Cl | C13H11Cl3N4O3
product | 1-(2,4,6-trichloroanilino)-5-cyano-2,4-pyrimidinedione | ClC1=C(NN2C(NC(C(=C2)C#N)=O)=O)C(=CC(=C1)Cl)Cl | C11H5Cl3N4O2
